US05025025
Methyl 7-amino-6-(3-pyridyl)-heptanoate hydrochloride (8.0 g) is suspended in 200 mL of ethyl acetate, 15 mL of triethylamine is added, and then a solution of 10 g of 4-chlorophenylsulfonyl chloride in 100 mL of ethyl acetate is added dropwise over a period of 0.5 hour. The reaction is then stirred for 2 hours and is extracted with 1N aqueous sodium hydroxide, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated. The residue is chromatographed over activated magnesium silicate (Florisil) and eluted with ethyl acetate to yield methyl 7-(p-chlorophenylsulfonamido)-6-(3-pyridyl)-heptanoate as an oil.

reactant | Methyl 7-amino-6-(3-pyridyl)-heptanoate hydrochloride | 8.0 g | Cl.NCC(CCCCC(=O)OC)C=1C=NC=CC1
reactant | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylsulfonyl chloride | 10 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 7-(p-chlorophenylsulfonamido)-6-(3-pyridyl)-heptanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCC(CCCCC(=O)OC)C=1C=NC=CC1 | C19H23ClN2O4S
